US08835420B2
(S)-2,4-Diamino-6-((1-(1-methyl-6-(tetrahydro-2H-pyran-4-yl)-1H-pyrrolo[3,2-b]pyridin-5-yl)ethyl)amino)pyrimidine-5-carbonitrile
To a 20 mL vial were added (S)-1-(1-methyl-6-(tetrahydro-2H-pyran-4-yl)-1H-pyrrolo[3,2-b]pyridin-5-yl)ethanamine (336 mg, 1.296 mmol), 2,4-diamino-6-chloropyrimidine-5-carbonitrile (242 mg, 1.425 mmol) and Et3N (1.8 mL, 13 mmol) in DMF (7 mL). The resulting yellow solution was heated to 90° C. and stirred overnight. The crude product was purified by preparative HPLC eluting with 25-50% ACN in water (with 0.05% ammonium bicarbonate). The fractions containing the desired product were combined and lyophilized to give the title compound as a white solid (147 mg, 28%). 1H NMR (400 MHz, DMSO-d6) δ ppm 1.37-1.51 (m, 3 H), 1.58-1.87 (m, 3 H), 1.91-2.07 (m, 1 H), 3.04-3.18 (m, 1 H), 3.43-3.60 (m, 3 H), 3.77-3.88 (m, 3 H), 3.90-4.08 (m, 2 H), 5.64-5.80 (m, 1H), 6.39-6.54 (m, 3 H), 6.56-6.67 (m, 2 H), 6.82-6.96 (m, 1 H), 7.54-7.66 (m, 1 H), 7.81-7.96 (m, 1 H),); ESI-MS m/z [M+H]+ calc'd for C20H24N8O, 393; found 393.

reactant | (S)-1-(1-methyl-6-(tetrahydro-2H-pyran-4-yl)-1H-pyrrolo[3,2-b]pyridin-5-yl)ethanamine | 1.296 mmol, 336 mg | CN1C=CC2=NC(=C(C=C21)C2CCOCC2)[C@H](C)N | C15H21N3O
reactant | 2,4-diamino-6-chloropyrimidine-5-carbonitrile | 1.425 mmol, 242 mg | NC1=NC(=C(C(=N1)N)C#N)Cl | C5H4ClN5
reactant | Et3N | 13 mmol, 1.8 mL | CCN(CC)CC | C6H15N
solvent | DMF | 7 mL | CN(C)C=O | C3H7NO
product | (S)-2,4-Diamino-6-((1-(1-methyl-6-(tetrahydro-2H-pyran-4-yl)-1H-pyrrolo[3,2-b]pyridin-5-yl)ethyl)amino)pyrimidine-5-carbonitrile | 147 mg, 28% | NC1=NC(=C(C(=N1)N)C#N)N[C@@H](C)C1=C(C=C2C(=N1)C=CN2C)C2CCOCC2 | C20H24N8O
